US05047554
6-Chloro-3-(4-chloro-2-thenoyl)-2-oxindole-1-carboxamide
The experimental procedure used to produce the title compound was adopted from Example 55. A 463 mg (2.85 mmole) portion of 4-chloro-2-thiophenecarboxylic acid (prepared according to Iriarte, J., et al., J. Het. Chem., 13, 393 (1976)) was transformed into the acyl imidazole by reaction with 500 mg (3.09 mmole) of 1,1'-carbonyldiimidazole. The intermediate 4-chloro-2-thiophene-(1-imidazo)carboxamide coupled directly with 500 mg (2.37 mmole) of 6-chloro-2-oxindole-1-carboxamide in the presence of 783 mg (6.41 mmole) of 4-(N,N-dimethylamino)pyridine to give 665 mg of crude greenish-yellow solid. Recrystallization gave 450 mg (1.27 mmole, 53% yield) of pure title compound as a yellow solid, m.p. 231°-3° C. (acetic acid).

reactant | 4-chloro-2-thiophenecarboxylic acid | ClC=1C=C(SC1)C(=O)O | C5H3ClO2S
reactant | 1,1'-carbonyldiimidazole | 3.09 mmole, 500 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-chloro-2-oxindole-1-carboxamide | 2.37 mmole, 500 mg | ClC1=CC=C2CC(N(C2=C1)C(=O)N)=O | C9H7ClN2O2
catalyst | 4-(N,N-dimethylamino)pyridine | 6.41 mmole, 783 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-(4-chloro-2-thenoyl)-2-oxindole-1-carboxamide | 1.27 mmole, 450 mg, 53% yield | ClC1=CC=C2C(C(N(C2=C1)C(=O)N)=O)C(C1=CC(=CS1)Cl)=O | C14H8Cl2N2O3S
